US05302720
A mixture of 3'-fluoro-2-biphenylylcyanamide (4.1 g) and N-methylpiperazine (1.9 g) in 1,2-dimethoxyethane (30 ml) was heated at 90°-95° C. for 4 hours to yield N-(3'-fluoro-2-biphenylyl)-4-methylpiperazine-1-carboxamidine (m.p. 117°-118° C.) which was recrystallised from hexane.

reactant | 3'-fluoro-2-biphenylylcyanamide | 4.1 g | FC=1C=C(C=CC1)C1=C(C=CC=C1)NC#N | C13H9FN2
reactant | N-methylpiperazine | 1.9 g | CN1CCNCC1 | C5H12N2
solvent | 1,2-dimethoxyethane | 30 ml | COCCOC | C4H10O2
product | N-(3'-fluoro-2-biphenylyl)-4-methylpiperazine-1-carboxamidine | FC=1C=C(C=CC1)C1=C(C=CC=C1)NC(=N)N1CCN(CC1)C | C18H21FN4
